US04990536
(iii) t-Butyl 8-amino-4-azaoctanoate:
2.49 g (5.14 mmol) of t-butyl 4,9-bisbenzyloxy-carbonyl-4,9-diazanonanoate was dissolved in 20 ml of methanol and 0.3 g of palladium black was added thereto. The obtained mixture was reduced at room temperature under atmospheric pressure in a hydrogen gas stream for three hours. After filtering off the catalyst, the filtrate was concentrated under reduced pressure to thereby give 1.11 g of the aimed compound in the form of an oily product (yield: 100%).

reactant | t-butyl 4,9-bisbenzyloxy-carbonyl-4,9-diazanonanoate | 5.14 mmol, 2.49 g | C(C1=CC=CC=C1)ON(CC(C(=O)OC(C)(C)C)=C=O)CCCCNOCC1=CC=CC=C1 | C26H34N2O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium black | 0.3 g | [Pd] | Pd
product | t-Butyl 8-amino-4-azaoctanoate | 1.11 g | NCCCCNCCC(=O)OC(C)(C)C | C11H24N2O2
